US04536402
(E)-2-[(Methylamino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1,1-dioxide
A mixture of 6.0 gm (0.0224 mol) of (E)-2-[(methylamino)phenylmethylene]-benzo[b]thiophen-3(2H)-one, 100 ml of glacial acetic acid and 3.5 ml (0.034 mol) of an aqueous 30% hydrogen peroxide solution was heated at 50° C. for four hours while stirring and then allowed to stand overnight at room temperature. After the addition of 40 ml of a 10% sodium sulfite solution, the mixture was concentrated by evaporation in vacuo, and the residue was suspended in 200 ml of water. The solid material precipitated thereby was suction-filtered off and then broken down into its constituents by column chromatography on 300 gm of silica gel, using 1,2-dichloroethane/ethyl acetate (97:3 v/v) as the eluant. By evaporating the appropriate fractions, 2.0 gm (33% of theory) of pale yellow (E)-2-[(methylamino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide, m.p. 205-206° C (decomposition) from ethanol), and 0.10 gm (1.5% of theory) of light yellow (E)- 2-[(methylamino)phenylmethylene]-benzo[b]-thiophen-3(2H)-one-1,1-dioxide, m.p. 302°-303° C., were obtained.

reactant | (E)-2-[(methylamino)phenylmethylene]-benzo[b]thiophen-3(2H)-one | 0.0224 mol, 6.0 gm | CN\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C16H13NOS
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | (E)-2-[(Methylamino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1,1-dioxide | CN\C(=C\1/C(C2=C(S1(=O)=O)C=CC=C2)=O)\C2=CC=CC=C2 | C16H13NO3S
